### PR TITLE
[Merged by Bors] - feat(Analysis/MeanInequalities): more forms of AM-GM strict inequality

### PR DESCRIPTION
**Pull request by SnirBroshi**
`Real.geom_mean_{eq/lt}_arith_mean_weighted_iff_of_{pos/nonneg}` for the `=`/`<` version of AM-GM with positive/non-negative weights, and primed versions for the canonical spelling where elements are compared to their center of mass instead of to each other.

Also adds `Real.geom_mean_{eq/lt}_arith_mean2_weighted_iff_of_{pos/nonneg}` which are specialized versions for 2 values.

---
We previously had these 3 versions:
- `=` with positive weights, canonical
- `=` with nonnegative weights, canonical
- `<` with positive weights, non-canonical

so this PR adds the missing 5 and standardizes the naming.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/MeanInequalities.lean [hunk 1]
```diff
@@ -233,20 +233,62 @@ theorem geom_mean_eq_arith_mean_weighted_iff' (w z : ι → ℝ) (hw : ∀ i ∈
...
+      ∏ i ∈ s with w i ≠ 0, z i ^ w i = ∑ i ∈ s with w i ≠ 0, w i * z i ↔
+        ∀ j ∈ {x ∈ s | w x ≠ 0}, z j = ∑ i ∈ s with w i ≠ 0, w i * z i :=
+    geom_mean_eq_arith_mean_weighted_iff_of_pos' _ w z (by grind)
+      (sum_filter_ne_zero _ |>.trans hw') (hz _ <| mem_of_mem_filter · ·)
+  grind [prod_filter_of_ne, sum_filter_of_ne, rpow_zero]
+
+@[deprecated (since := "2026-06-07")]
+alias geom_mean_eq_arith_mean_weighted_iff := geom_mean_eq_arith_mean_weighted_iff_of_nonneg'
+
+/-- **AM-GM inequality - equality condition** -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/MeanInequalities.lean]: Could you explain the difference with the primed name either in this docstring or that one?

File: Mathlib/Analysis/MeanInequalities.lean [hunk 2]
```diff
@@ -266,9 +308,21 @@ theorem geom_mean_lt_arith_mean_weighted_iff_of_pos (w z : ι → ℝ) (hw : ∀
     have := geom_mean_le_arith_mean_weighted s w z (fun i a => le_of_lt (hw i a)) hw' hz
     by_contra! h
     apply le_antisymm this at h
-    apply (geom_mean_eq_arith_mean_weighted_iff' s w z hw hw' hz).mp at h
+    apply (geom_mean_eq_arith_mean_weighted_iff_of_pos' s w z hw hw' hz).mp at h
     simp only [h j hjs, h k hks, ne_eq, not_true_eq_false] at hzjk
 
+-- `<` iff for non-neg, non-canonical-form
```
Comment (j-loreaux) [inline Mathlib/Analysis/MeanInequalities.lean]: This is not helpful to the casual reader later.
```suggestion
```

File: Mathlib/Analysis/MeanInequalities.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/MeanInequalities.lean]: indeed, I suggest doing it in both docstrings.

**Review by j-loreaux — COMMENTED** [review]
Other than the docstring comment, I think this is fine.

bors d+

File: Mathlib/Analysis/MeanInequalities.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Analysis/MeanInequalities.lean]: Oops, this was a temporary comment that I forgot to delete, sorry

**Comment by SnirBroshi** [comment]
Thanks!

bors merge
